US07214690B2
This compound was prepared by General Method 5 (EXAMPLE 1) from (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline (0.015 g, 0.044 mmol), paraformaldehyde (0.013 g, 0.44 mmol) and NaCNBH3 (0.014 g, 0.22 mmol) in 1 mL glacial acetic acid to afford 0.014 g (93%) of (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-4-methyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline, of sufficient purity as to be used directly in the next reaction. Rf0.5 (9:1 hexane:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.44 (d, 1H, J=9.0), 7.20 (d, 1H, J=9.0), 7.18 (s, 1H), 5.48 (septet, 1H, J=6.2), 4.29 (dd, ABX, 1H, J=10.7, 2.5), 4.02 (dd, ABX, 1H, J=10.7, 2.7), 3.21–3.16 (m, 1H), 3.03 (s, 3H), 1.74–1.56 (m, 2H), 1.39 (d, 3H, J=6.2), 1.37 (d, 3H, J=6.2), 0.99 (t, 3H, J=7.5).

reactant | (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.044 mmol, 0.015 g | C(C)[C@H]1NC=2C(=C3C(=CC(=NC3=CC2)OC(C)C)C(F)(F)F)OC1 | C17H19F3N2O2
reactant | paraformaldehyde | 0.44 mmol, 0.013 g | C=O | CH2O
reactant | NaCNBH3 | 0.22 mmol, 0.014 g | [BH3-]C#N.[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-4-methyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.014 g, 93% | C(C)[C@H]1N(C=2C(=C3C(=CC(=NC3=CC2)OC(C)C)C(F)(F)F)OC1)C | C18H21F3N2O2
